US08563512B2
(R)-3-[N-(4-Bromobenzyl)-hydrazino]-2-hydroxy-propionic Acid Methyl Ester
(R)-3-[N-(4-Bromobenzyl)-N′-t-butoxycarbonyl-hydrazino]-2-hydroxy-propionic acid methyl ester (1.1 g, 2.8 mmol) was dissolved in MeCN (10 mL) and of 4N HCl in dioxane (6 mL, 20 mmol). The mixture was stirred at room temperature until deprotection was complete (1 hour). The precipitate was filtered and dried to yield the title compound (840 mg) as an HCl salt.

reactant | (R)-3-[N-(4-Bromobenzyl)-N′-t-butoxycarbonyl-hydrazino]-2-hydroxy-propionic acid methyl ester | 2.8 mmol, 1.1 g | COC([C@@H](CN(NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)Br)O)=O | C16H23BrN2O5
reactant | dioxane | 20 mmol, 6 mL | O1CCOCC1 | C4H8O2
solvent | MeCN | 10 mL | CC#N | C2H3N
solvent | HCl | 4N | Cl | ClH
product | (R)-3-[N-(4-Bromobenzyl)-hydrazino]-2-hydroxy-propionic Acid Methyl Ester | 840 mg | COC([C@@H](CN(N)CC1=CC=C(C=C1)Br)O)=O | C11H15BrN2O3
